US04876359
Dissolved in 30 ml of dimethylformamide were 2.54 g of L-alanine t-butyl ester hydrochloride and 2.38 g of 2-bromo-γ-butyrolactone. After a dropwise addition of 2.83 g of triethylamine, the resultant mixture was heated and stirred at 70° C. for 5 hours. The reaction mixture was poured into chilled water, followed by extraction with ethyl acetate. The extract was washed successivley with water, a 2% aqueous solution of sodium hydrogencarbonate, and water. After drying the extract over anhydrous sodium sulfate, it was distilled under reduced pressure. The residue was isolated and purified by chromatography on a silica gel column (toluene:ethyl acetate=20:1), thereby obtaining 1.86 g of N-(2-oxo-3-tetrahydrofuranyl)-L-alanine t-butyl ester as a colorless oily substance.

reactant | L-alanine t-butyl ester hydrochloride | 2.54 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | 2-bromo-γ-butyrolactone | 2.38 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | triethylamine | 2.83 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(2-oxo-3-tetrahydrofuranyl)-L-alanine t-butyl ester | 1.86 g | C(C)(C)(C)OC([C@@H](NC1C(OCC1)=O)C)=O | C11H19NO4
